US06956077B1
4-Aminobenzamide (29 mmol) and triethylamine (33 mmol) were dissolved in dimethylformamide (100 mL) and acryloyl chloride (33 mmol) was dropped thereinto under ice-cooling. After the completion of the addition, the resultant mixture was stirred at room temperature for 2 hours. After filtering off the precipitate, the solvent was distilled off. Then the solid matter thus obtained was recrystallized from a solvent mixture of water with methanol to give 4-acrylamidobenzamide at a yield of 60%.

reactant | 4-Aminobenzamide | 29 mmol | NC1=CC=C(C(=O)N)C=C1 | C7H8N2O
reactant | triethylamine | 33 mmol | C(C)N(CC)CC | C6H15N
reactant | acryloyl chloride | 33 mmol | C(C=C)(=O)Cl | C3H3ClO
solvent | dimethylformamide | 100 mL | CN(C=O)C | C3H7NO
product | 4-acrylamidobenzamide | yield of 60% | C(C=C)(=O)NC1=CC=C(C(=O)N)C=C1 | C10H10N2O2
